US09193741B2
Synthesis of 1-(4-(2-(4-fluorophenethyl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-methoxyphenoxy)ethanone
This compound was prepared from 2-(4-fluorophenethyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidine using 4-methoxyphenoxyacetic acid in a yield of 39%, according to the procedure for the synthesis of example 50.

reactant | 2-(4-fluorophenethyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidine | FC1=CC=C(CCC=2SC=3N=CN=C(C3N2)N2CCNCC2)C=C1 | C17H18FN5S
reactant | 4-methoxyphenoxyacetic acid | COC1=CC=C(OCC(=O)O)C=C1 | C9H10O4
product | 1-(4-(2-(4-fluorophenethyl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-methoxyphenoxy)ethanone | yield of 39% | FC1=CC=C(CCC=2SC=3N=CN=C(C3N2)N2CCN(CC2)C(COC2=CC=C(C=C2)OC)=O)C=C1 | C26H26FN5O3S
